US05006598
7.39 lbs 1,4-cyclohexanedimethanol
20.09 g of titanium tetraisopropoxide in n-butanol (2.54 weight percent Ti)

reactant | n-butanol | C(CCC)O | C4H10O
catalyst | titanium tetraisopropoxide | 20.09 g | CC([O-])C.CC([O-])C.CC([O-])C.CC([O-])C.[Ti+4]
product | 1,4-cyclohexanedimethanol | C1(CCC(CC1)CO)CO | C8H16O2
